US08440652B2
A slurry of 1-bromo-4-(1-cyclopropylethoxy)benzene (1.30 g, 5.39 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.77 g, 7.01 mmol), PdCl2dppf-DCM (197 mg, 0.27 mmol), KOAc (1.06 g, 10.78 mmol) in DMF (12 mL) was heated to 100° C. for 2 h. At completion, the reaction was concentrated, then purified by flash chromatography over silica gel (20-40% EtOAc/hexane eluent) to provide 2-(4-(1-cyclopropylethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.38 g, 88% yield).

reactant | 1-bromo-4-(1-cyclopropylethoxy)benzene | 5.39 mmol, 1.30 g | BrC1=CC=C(C=C1)OC(C)C1CC1 | C11H13BrO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 7.01 mmol, 1.77 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 10.78 mmol, 1.06 g | CC(=O)[O-].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1-cyclopropylethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.38 g, 88% yield | C1(CC1)C(C)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H25BO3
